US05137660
A solution of 1,3-didecanoyl glycerol (40.6 mmole, 16.25 g), docosanoic anhydride (40.6 mmole, 26.9 g) and 4-N,N-dimethylaminopyridine (DMAP) (12.2 mmole, 1.5 g) in methylene chloride (350 ml) is refluxed for 2 hours. On cooling the reaction mixture to 0° C., docosanoic acid and the remaining docosanoic anhydride precipitated and was filtered. The filtrate is evaporated and dissolved in petroleum ether (500 ml). The product precipitated at -15° C. is filtered and dried giving 24.5 g (83%) of 1,3-didecanoyl-2-docosanoyl glycerol.

reactant | 1,3-didecanoyl glycerol | 40.6 mmole, 16.25 g | C(CCCCCCCCC)(=O)OCC(O)COC(CCCCCCCCC)=O | C23H44O5
reactant | docosanoic anhydride | 40.6 mmole, 26.9 g | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCCCCCCC)=O | C44H86O3
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
product | 1,3-didecanoyl-2-docosanoyl glycerol | 24.5 g, 83% | C(CCCCCCCCC)(=O)OCC(OC(CCCCCCCCCCCCCCCCCCCCC)=O)COC(CCCCCCCCC)=O | C45H86O6
